US08293926B2
Synthesis of methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate
To 2-propanol (250 ml) was added dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate (50.0 g, 158 mmol) and iron-containing developed nickel (5.0 g, containing iron 16.6%, aluminum 6.1%, manufactured by Kawaken Fine Chemical K.K.), and the mixture was reacted at 65° C. for 3 hours under a hydrogen pressure of 0.5 MPa (gauge pressure). After completion of the reaction, tetrahydrofuran (175 ml) was added, and the nickel catalyst was filtrated off. The nickel catalyst was washed with tetrahydrofuran (75 ml), and filtrate and washing liquid were combined, and acidic active alumina (5.0 g) was added to this and the mixture was thermally insulated at 50 to 60° C. The active alumina was filtrated off, then, the filtrate was concentrate under reduced pressure. The concentrated filtrate was cooled to 8° C., then, the resultant crystal was filtrated, and dried under reduced pressure, to obtain a title compound (31.4 g, 124 mmol) (yield: 78%). The spectrum data corresponded to the value in Example 2. The optical purity of the resultant compound was measured by HPLC to find a value of 99.73% ee. The content of a by-product obtained by releasing a chlorine atom was 0.06% (conditions are shown below).

reactant | 2-propanol | 250 ml | CC(C)O | C3H8O
reactant | dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate | 158 mmol, 50.0 g | ClC1=CC=C(C=C1)[C@H](C[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C13H14ClNO6
catalyst | iron | [Fe] | Fe
catalyst | nickel | 5.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate | 124 mmol, 31.4 g, yield: 78% | ClC1=CC=C(C=C1)[C@H]1[C@@H](C(NC1)=O)C(=O)OC | C12H12ClNO3
